US04680286
Then, 30 ml of an aqueous solution containing 3.2 g (10 mmol) of the above-obtained 2-selenoisourea malic acid hydrobromide was prepared. To the solution was dropwise added 20 ml of an aqueous potassium carbonate solution containing 2.04 g (22 mmol) of potassium carbonate at -10° C. To the thus obtained solution was dropwise added 3.51 g (10 mmol) of triethylphosphine gold chloride dissolved in ethanol containing a few drops of methylene chloride at -10° C., and then the mixture was stirred for 30 minutes while cooling, thereby to precipitate crystals. The crystals were filtered off and washed with water-ethanol, 0.1 N HCl and water, successively, thereby to obtain 3 g (6 mmol) of triethylphosphine gold selenomalate. The thus obtained triethylphosphine gold selenomalate was suspended in 20 ml of an aqueous solution containing 320 mg (3 mmol) of Na2CO3. The suspension was stirred for one hour and subjected to lyophilization. Thus, there was obtained 3 mmol of triethylphosphine gold sodium selenomalate.

reactant | triethylphosphine gold selenomalate | C(C(O)CC(=O)[O-])(=[Se])[O-].[Au+3].C(C)P(CC)CC.C(C(O)CC(=O)[O-])(=[Se])[O-].C(C(O)CC(=O)[O-])(=[Se])[O-].[Au+3]
reactant | Na2CO3 | 3 mmol, 320 mg | C(=O)([O-])[O-].[Na+].[Na+]
product | triethylphosphine gold sodium selenomalate | 3 mmol | C(C(O)CC(=O)[O-])(=[Se])[O-].[Na+].[Au+3].C(C)P(CC)CC.C(C(O)CC(=O)[O-])(=[Se])[O-] | InChI=1S/C6H15P.2C4H6O4Se.Au.Na/c1-4-7(5-2)6-3;2*5-2(4(8)9)1-3(6)7;;/h4-6H2,1-3H3;2*2,5H,1H2,(H,6,7)(H,8,9);;/q;;;+3;+1/p-4
